US07855290B2
{4-[4-(Benzyloxycarbonylamino)phenoxy]pyridin-2-yl}-N-(phenoxycarbonyl)carbamic acid phenyl ester
To a solution of [4-(2-aminopyridin-4-yloxy)phenyl]carbamic acid benzyl ester (500 mg) in tetrahydrofuran (15 ml) were added triethylamine (0.519 ml) and phenyl chloroformate (0.467 ml) while stirring in an ice water bath. The reaction mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The separated organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure to provide a crude product of the titled compound as brown foam (935.6 mg).

reactant | [4-(2-aminopyridin-4-yloxy)phenyl]carbamic acid benzyl ester | 500 mg | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)OC1=CC(=NC=C1)N)=O | C19H17N3O3
reactant | triethylamine | 0.519 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.467 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | {4-[4-(Benzyloxycarbonylamino)phenoxy]pyridin-2-yl}-N-(phenoxycarbonyl)carbamic acid phenyl ester | 935.6 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O | C33H25N3O7
